US07612114B2
5-Fluoro-2-nitrophenyl trifluoromethanesulfonate
To a solution of 5-fluoro-2-nitrophenol (3.0 g) in dichloromethane (50 ml) was added pyridine (5 ml), and trifluoromethanesulfonic anhydride (3.5 ml) was then added dropwise thereto on an ice bath. The solution was stirred overnight at room temperature, then water was added thereto, the solution was stirred, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo to provide the title compound (5.4 g).

reactant | 5-fluoro-2-nitrophenol | 3.0 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 3.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-Fluoro-2-nitrophenyl trifluoromethanesulfonate | 5.4 g | FC(S(=O)(=O)OC1=C(C=CC(=C1)F)[N+](=O)[O-])(F)F | C7H3F4NO5S
